US06573270B1
ethyl 2-{4-[([4-(1,3-benzodioxol-5-yl)-3-(cyclopropylmethoxy)-1-methyl-1H-pyrazol-5-yl]amino)sulfonyl]phenyl}-2-methylpropanoate
To 4-(1,3-benzodioxol-5-yl)-3-(cyclopropylmethoxy)-1-methyl-1H-pyrazol-5-ylamine (Preparation 50) (230 mg) in anhydrous pyridine (8 ml) at room temperature under an atmosphere of nitrogen was added dimethylaminopyridine (108 mg) and ethyl 2-[4-(chlorosulfonyl)phenyl]-2-methylpropanoate (512 mg). The mixture was stirred overnight and then concentrated under reduced pressure. HCl 0.01N (100 ml) was poured on the resulting yellow syrup and the resulting mixture was extracted with dichloromethane (3×50 ml). The organic fraction was concentrated under reduced pressure and the residue was dissolved in methanol (8 ml). An aqueous solution of sodium hydroxyde (2M, 2 ml) was added and the reaction was stirred overnight. Water (10 ml) was then added, the mixture was acidified with an aqueous solution of HCl (1N) and extracted with dichloromethane (3×10 ml). The combined organic fractions were dried on sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography (silica, 35 g) eluted with hexane:ethyl acetate (2:1) to yield the title as a pale yellow oil (281 mg).

reactant | 4-(1,3-benzodioxol-5-yl)-3-(cyclopropylmethoxy)-1-methyl-1H-pyrazol-5-ylamine | 230 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2N)C)OCC2CC2 | C15H17N3O3
reactant | dimethylaminopyridine | 108 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ethyl 2-[4-(chlorosulfonyl)phenyl]-2-methylpropanoate | 512 mg | ClS(=O)(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C12H15ClO4S
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-{4-[([4-(1,3-benzodioxol-5-yl)-3-(cyclopropylmethoxy)-1-methyl-1H-pyrazol-5-yl]amino)sulfonyl]phenyl}-2-methylpropanoate | 281 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=CC=C(C=C2)C(C(=O)OCC)(C)C)C)OCC2CC2 | C27H31N3O7S
